US07964607B2
1-cyclopentyl-6-[(3S,4S)-1-{[2-(dimethylamino)pyrimidin-4-yl]methyl}-4-methylpyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 1-cyclopentyl-6-[(3,4-trans)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 1-cyclopentyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one and 2-(dimethylamino)pyrimidine-4-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.24-8.21 (m, 1H), 8.00-7.99 (m, 1H), 6.52-6.50 (m, 1H), 5.13-5.10 (m, 1H), 3.72-3.68 (m, 1H), 3.56-3.52 (m, 1H), 3.46-3.40 (m, 3H), 3.17-3.11 (m, 7H), 2.84-2.82 (m, 1H), 2.64-2.60 (m, 1H), 2.44-2.38 (m, 1H), 2.06-1.92 (m, 5H), 1.66-1.65 (m, 2H), 1.20-1.16 (m, 3H). MS: (M+H m/z=423.1).

reactant | 1-cyclopentyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C1(CCCC1)N1N=CC2=C1N=C(NC2=O)[C@@H]2CNC[C@H]2C | C15H21N5O
reactant | 2-(dimethylamino)pyrimidine-4-carbaldehyde | CN(C1=NC=CC(=N1)C=O)C | C7H9N3O
product | 1-cyclopentyl-6-[(3S,4S)-1-{[2-(dimethylamino)pyrimidin-4-yl]methyl}-4-methylpyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1N=CC2=C1N=C(NC2=O)[C@@H]2CN(C[C@H]2C)CC2=NC(=NC=C2)N(C)C | C22H30N8O
